US05565451
A stirred solution of 3.8 grams (0.026 mole) of 2-naphthol and 3.6 grams (0.026 mole) of potassium carbonate in 200 mL of acetone was heated at reflux for about 30 minutes. The reaction mixture was then cooled to ambient temperature, and 5.0 grams (0.023 mole) of 3-nitrophenylmethyl bromide was added. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was then warmed to reflux where it stirred for about 18 hours. After this time the reaction mixture was cooled to ambient temperature and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was partitioned between ethyl acetate and an aqueous solution saturated with sodium bicarbonate. The organic layer was separated and washed with three 50 mL portions of an aqueous solution saturated with sodium bicarbonate and then with one 50 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to a residue. The residue was crystallized with hexane, yielding about 4.5 grams of 3-(naphth-2-yloxymethyl)nitrobenzene. The NMR spectrum was consistent with the proposed structure.

reactant | 2-naphthol | 0.026 mole, 3.8 grams | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 0.026 mole, 3.6 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 3-nitrophenylmethyl bromide | 0.023 mole, 5.0 grams | [N+](=O)([O-])C=1C=C(C=CC1)CBr | C7H6BrNO2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 3-(naphth-2-yloxymethyl)nitrobenzene | about 4.5 grams | C1=C(C=CC2=CC=CC=C12)OCC=1C=C(C=CC1)[N+](=O)[O-] | C17H13NO3
